US09447078B2
Preparation of 3-amino-1-(5-(cyclohexylethynyl)furan-2-yl)propan-1-ol
LiAlH4 reduction of 3-(5-(cyclohexylethynyl)furan-2-yl)-3-oxopropanenitrile following the method used in Example 1 gave after flash chromatography purification (2%-20% 7N NH3/MeOH—CH2Cl2 gradient) followed by treatment with activated charcoal Example 23 as a light yellow oil. Yield (0.14 g, 26%); 1H NMR (400 MHz, CD3OD) δ 6.39 (d, J=3.4 Hz, 1H), 6.24 (d, J=3.9 Hz, 1H), 4.68 (t, J=6.8 Hz, 1H), 2.69-2.79 (m, 2H), 2.56-2.64 (m, 1H), 1.90-1.98 (m, 2H), 1.81-1.90 (m, 2H), 1.68-1.80 (m, 2H), 1.28-1.68 (m, 6H); RP-HPLC tR=9.95 min; ESI-MS m/z 230.2 [M−H2O+H]+.

reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(5-(cyclohexylethynyl)furan-2-yl)-3-oxopropanenitrile | C1(CCCCC1)C#CC1=CC=C(O1)C(CC#N)=O | C15H15NO2
product | 3-amino-1-(5-(cyclohexylethynyl)furan-2-yl)propan-1-ol | NCCC(O)C=1OC(=CC1)C#CC1CCCCC1 | C15H21NO2
